US09301951B2
Intermediate 19c: tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(dipropylamino)phenyl)carbamoyl)benzylthio)propanoate
Into a 10-mL vial, was placed a solution of 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid (355.2 mg, 1.20 mmol, 2.00 equiv) in dichloromethane (5 mL), EDC.HCl (228 mg, 1.19 mmol, 2.00 equiv), 4-dimethylaminopyridine (146.4 mg, 2.00 mmol), and N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(dipropylamino)phenyl)isonicotinamide (300 mg, 0.64 mmol, 1.00 equiv). The resulting solution was stirred for 2 h at 25° C. in an oil bath. The resulting solution was diluted with 50 mL of dichloromethane and washed with 3×50 mL of aqueous NH4Cl. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:5-1:3). The product was obtained as 320 mg (67%) of a yellow to green oil.

reactant | 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid | 1.20 mmol, 355.2 mg, 2.00 equiv | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)O)C=CC1)=O | C15H20O4S
reactant | EDC.HCl | 1.19 mmol, 228 mg, 2.00 equiv | CCN=C=NCCCN(C)C.Cl
reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(dipropylamino)phenyl)isonicotinamide | 0.64 mmol, 300 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCC)CCC)N)=O)C=CC1)(F)F | C26H29F3N4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.00 mmol, 146.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(dipropylamino)phenyl)carbamoyl)benzylthio)propanoate | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCC)CCC)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C41H47F3N4O4S
